US04051252
Analogously to Example 1, 0.1 mol of 3-amino-5-trifluoromethyl-7-nitroindazole and 150 ml of pyrocarbonic acid diethyl ester in 100 ml of ethanol give 3-amino-5-trifluoromethyl-7-nitro indazole-2-carboxylic acid ethyl ester (melting point: 186°-187° C; 74% of theory) in 30 minutes at 80° C.

reactant | pyrocarbonic acid diethyl ester | 150 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
reactant | 3-amino-5-trifluoromethyl-7-nitro indazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C(=CC(=CC2=C1N)C(F)(F)F)[N+](=O)[O-] | C11H9F3N4O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-amino-5-trifluoromethyl-7-nitroindazole | 0.1 mol | NC1=NNC2=C(C=C(C=C12)C(F)(F)F)[N+](=O)[O-] | C8H5F3N4O2
